US08252806B2
(4-Chloro-benzyl)-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride (Compound A13)
Was prepared according to Method A from 2,4-dichloroquinazoline, 4-chlorobenzylamine and 3,5-dimethylpyrazole. LC-ESI-HRMS [M+H]+ 364.1319 Da. Calc. 364.132898 Da.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 4-chlorobenzylamine | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | (4-Chloro-benzyl)-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride | Cl.ClC1=CC=C(CNC2=NC(=NC3=CC=CC=C23)N2N=C(C=C2C)C)C=C1 | InChI=1S/C20H18ClN5.ClH/c1-13-11-14(2)26(25-13)20-23-18-6-4-3-5-17(18)19(24-20)22-12-15-7-9-16(21)10-8-15;/h3-11H,12H2,1-2H3,(H,22,23,24);1H
